US07300947B2
1) Spiro[bicyclo[2.2.1]heptane-2,1′-cyclopropane]-3-one
Zinc powder (15.10 g) was suspended in diethyl ether (70 mL) and to which cuprous chloride (2.29 g) was added at room temperature, followed by 30 minutes' refluxing in nitrogen atmosphere. The suspension was cooled to 0° C. and to which 3-methylenebicyclo[2.2.1]heptan-2-one (7.0 mL) was added at 0° C. Into the reaction mixture, methane diiodide (7.0 mL) was slowly dropped at 0° C. and after the end of the dropping, the reaction mixture was refluxed for 30 hours in nitrogen atmosphere. Cooling the reaction mixture to room temperature, the insoluble matter was filtered off with Celite® and the filterate washed twice with 5% aqueous sodium thiosulfate solution. The organic layer was dried over anhydrous magnesium sulfate, the solvent was removed by distillation, and the resulting residue was purified on silica gel column chromatography (hexane/ethyl acetate=100/1−7/1) to provide 4.89 g of the title compound as a colorless oily substance.

reactant | 3-methylenebicyclo[2.2.1]heptan-2-one | 7.0 mL | C=C1C(C2CCC1C2)=O | C8H10O
reactant | methane diiodide | 7.0 mL | [I-].[I-].C
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
catalyst | Zinc | 15.10 g | [Zn] | Zn
product | Spiro[bicyclo[2.2.1]heptane-2,1′-cyclopropane]-3-one | 4.89 g | C12(CC1)C1CCC(C2=O)C1 | C9H12O
